US08222248B2
To a suspension of 4-chloro-N-(3,4-dimethyl-phenyl)-3-nitro-benzenesulfonamide (0.22 g) in dioxane (2 mL) was added NH4OH (3 mL). The reaction mixture was heated to 95° C. for 8 h. The mixture was cooled to room temperature, diluted with water, and extracted with CH2Cl2. The extract was dried over Na2SO4 and concentrated in vacuo. Purification by column chromatography (SiO2, 3:1 hexane/EtOAc) afforded 4-amino-N-(3,4-dimethyl-phenyl)-3-nitro-benzenesulfonamide.

reactant | 4-chloro-N-(3,4-dimethyl-phenyl)-3-nitro-benzenesulfonamide | 0.22 g | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=CC(=C(C=C1)C)C)[N+](=O)[O-] | C14H13ClN2O4S
reactant | NH4OH | 3 mL | [NH4+].[OH-]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-amino-N-(3,4-dimethyl-phenyl)-3-nitro-benzenesulfonamide | NC1=C(C=C(C=C1)S(=O)(=O)NC1=CC(=C(C=C1)C)C)[N+](=O)[O-] | C14H15N3O4S
